US08067611B2
c) Preparation of [5-(4-chlorophenyl)-3-methyl-1-(1,3-thiazol-5-yl)-1H-pyrazol-4-yl]acetic acid
1 ml of 2 molar aqueous sodium hydroxide solution was added to 0.289 g (0.83 mmol) of methyl[5-(4-chlorophenyl)-3-methyl-1-(1,3-thiazol-5-yl)-1H-pyrazol-4-yl]acetat in 10 ml methanol, and the mixture was stirred at room temperature for four hours and allowed to stand overnight. The mixture was then concentrated, ice-water was added to the residue, and the mixture was adjusted to pH 3-4 by addition of 2 molar aqueous hydrochloric acid and extracted with dichloromethane. The combined organic phases were dried with magnesium sulfate, filtered and dried. The crude product was dried under high vacuum. This gave 0.187 g of product (60.7% of theory); NMR (CDCl3, 400 MHz): 2.33 (s, 3H); 3.39 (s, 2H); 7.24 (d, 2H); 7.31 (br s, 1H); 7.42 (d, 2H); 8.56 (br s, 1H).

reactant | sodium hydroxide | 2 molar, 1 ml | [OH-].[Na+]
reactant | methyl[5-(4-chlorophenyl)-3-methyl-1-(1,3-thiazol-5-yl)-1H-pyrazol-4-yl]acetat | 0.83 mmol, 0.289 g | COC(CC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=CN=CS1)C)=O | C16H14ClN3O2S
solvent | methanol | 10 ml | CO | CH4O
product | [5-(4-chlorophenyl)-3-methyl-1-(1,3-thiazol-5-yl)-1H-pyrazol-4-yl]acetic acid | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=CN=CS1)C)CC(=O)O | C15H12ClN3O2S
